US04610991
4-(4-Pyridinylamino)benzoic acid was prepared from 76.6 g of 4-aminobenzoic acid and 63.5 g of 4-chloropyridine in 240 ml of acetic acid, heated at reflux for 6 hours. With a work-up procedure similar to that of Example 33, there was obtained 50 g of product with the m.p. 322°-324° C.(decompn.).

reactant | 4-aminobenzoic acid | 76.6 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 4-chloropyridine | 63.5 g | ClC1=CC=NC=C1 | C5H4ClN
solvent | acetic acid | 240 ml | C(C)(=O)O | C2H4O2
product | 4-(4-Pyridinylamino)benzoic acid | N1=CC=C(C=C1)NC1=CC=C(C(=O)O)C=C1 | C12H10N2O2
